US05602277
Methyl 4-aminobenzoate (Aldrich, 5.0 g, 33 mmol) was dissolved in 120 mL of anhydrous methylene chloride containing pyridine (3.2 mL, 39.6 mmol), and dimethylaminopyridine (DMAP, 500 mg) was added. To the ice-cooled mixture was added dimethylcarbamyl chloride (3.34 mL, 36.3 mmol) while stirring. The stirring was continued for 16 h at room temperature. The reaction was quenched with water (50 mL) and the organic layer separated. The aqueous layer was extracted with chloroform (50 mL). The combined organic extract was dried over sodium sulfate. The volatiles were evaporated on a rotoevaporator to give a residue, which was applied to a column of silica gel (2 cm dia, 16.5 cm high, 42 g). Chloroform (1.2 L) eluted the starting material (3 g) while the desired material was washed with 1% methanol in chloroform (700 mL) and crystallized from chloroform-methanol-hexane. The white solid was separated, dried in air followed by drying in a pistol at acetone reflux in vacuo to give 885 mg (30% based on starting material consumed) of methyl 4-(N,N-dimethylcarbamyl)aminobenzoate, mp 169°-170° C.

reactant | Methyl 4-aminobenzoate | 33 mmol, 5.0 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | pyridine | 39.6 mmol, 3.2 mL | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | 500 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dimethylcarbamyl chloride | 36.3 mmol, 3.34 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(N,N-dimethylcarbamyl)aminobenzoate | 885 mg, 30% | CN(C(=O)NC1=CC=C(C(=O)OC)C=C1)C | C11H14N2O3
